US07888351B2
1-{4-[(R)-1-Amino-2-(2,4,5-trifluoro-phenyl)-ethyl]-piperidin-1-yl}-3-benzenesulfonyl-propan-1-one
The title compound is prepared analogously as described in example G1 using (S)-2-methyl-propane-2-sulfinic acid [(R)-1-piperidin-4-yl-2-(2,4,5-trifluoro-phenyl)-ethyl]-amide instead of 3-exo-[(R)-1-((S)-2-methyl-propane-2-sulfinylamino)-2-(2,4,5-trifluoro-phenyl)-ethyl]-8-aza-bicyclo[3.2.1]octane and 3-benzenesulfonyl-propionic acid instead of N-acetyl-L-alanine.

reactant | (S)-2-methyl-propane-2-sulfinic acid [(R)-1-piperidin-4-yl-2-(2,4,5-trifluoro-phenyl)-ethyl]-amide | N1CCC(CC1)[C@@H](CC1=C(C=C(C(=C1)F)F)F)N[S@@](=O)C(C)(C)C | C17H25F3N2OS
reactant | 3-benzenesulfonyl-propionic acid | C1(=CC=CC=C1)S(=O)(=O)CCC(=O)O | C9H10O4S
product | 1-{4-[(R)-1-Amino-2-(2,4,5-trifluoro-phenyl)-ethyl]-piperidin-1-yl}-3-benzenesulfonyl-propan-1-one | N[C@H](CC1=C(C=C(C(=C1)F)F)F)C1CCN(CC1)C(CCS(=O)(=O)C1=CC=CC=C1)=O | C22H25F3N2O3S
